US07091353B2
Methyl-3-aminomethyl-2-(methoxycarbonyl)benzoate hydrochloride
To a solution of methyl-3-cyano-2-(methoxycarbonyl)benzoate (12.3 g, 57 mmol) in methanol (250 ml) and 4N HCl (40 ml) was added 10% Pd/C (1.2 g). The mixture was hydrogenated under 50 psi of hydrogen in a Parr Type Shaker for 17 hours. The mixture was filtered through Celite and the filtrate was concentrated in vacuo. The residue was further evaporated with ethanol (2×25 ml) and toluene (25 ml) and dried under vacuum. The resulting solid was slurried in ether (50 ml) for 1 hour. The slurry was then filtered and dried to give 13.46 g (90%) of the product as a white solid: 1H NMR (DMSO-d6) δ 8.79 (b, 2H), 7.94 (d, J=7.8 Hz, 1H), 7.88 (d, J=7.7 Hz, 1H), 7.72 (t, J=7.7 Hz, 1H), 4.03 (s, 2H), 3.86 (s, 3H), 3.85 (s, 3H); 13C NMR (DMSO-d6) δ 167.58, 166.12, 133.41, 133.18, 132.28, 130.62, 129.49, 52.99, 52.92, 39.25.

reactant | methyl-3-cyano-2-(methoxycarbonyl)benzoate | 57 mmol, 12.3 g | COC(C1=C(C(=CC=C1)C#N)C(=O)OC)=O | C11H9NO4
reactant | hydrogen | [H][H] | H2
reactant | HCl | 4N, 40 ml | Cl | ClH
solvent | methanol | 250 ml | CO | CH4O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | Methyl-3-aminomethyl-2-(methoxycarbonyl)benzoate hydrochloride | 13.46 g, 90% | Cl.COC(C1=C(C(=CC=C1)CN)C(=O)OC)=O | InChI=1S/C11H13NO4.ClH/c1-15-10(13)8-5-3-4-7(6-12)9(8)11(14)16-2;/h3-5H,6,12H2,1-2H3;1H
